Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Malaise
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
panhypopituitarism who presents with a chief complaint of 
weakness and fever x 24 hours and noted to be hypotensive upon 
arrival. 

Ms. ___ was in her usual state of health until 24 hours ago 
when she began to note a dry cough, chills, rigors, myalgias, 
and malaise. This worsened gradually over the last 24 hours 
until she was noted on the evening of ___ to be lethargic in 
bed having soiled herself prompting her family to call ___. Upon 
their arrival, she was hypotensive to ___ and was given IVF 
in the field with initial improvement.  

She and her family deny sick contacts. Although she works as a 
___, the children were on vacation for the last week. 
Otherwise, she complained of earache last few weeks which was 
waxing and waning. 
 
In the ED, initial vs were: 102.3 ___ 18 98%. Labs notable 
for elevated WBC to 11.7, ___ with Cr of 3.3, lactate of 2.4. 
CXR, CT head were both unremarkable. CT abdomen demonstrated no 
acute process. In the ED, she was given Vancomycin, Cefepime, 
and 100mg of Hydrocortisone. She was given 4L of normal saline 
and started on levophed due to persistent hypotension. R femoral 
central line placed after RIJ attempt was aborted due to patient 
movement. Waxing and waning mental status downstairs and quite 
combative.   
 
Past Medical History:
Panhypopituitarism secondary to ___ syndrome in the setting 
of a post-partum hemorrhage
Remote History of Zoster

 
Social History:
___
Family History:
Mother with hypothyroidism, Father with ___ 

 
Physical Exam:
ADMISSION:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE:
VITALS: Afebrile, VSS BP 120s
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
ADMISSION:
___ 08:30PM BLOOD WBC-11.7* RBC-4.46 Hgb-14.3 Hct-43.0 
MCV-96 MCH-32.0 MCHC-33.2 RDW-13.0 Plt ___
___ 08:30PM BLOOD Neuts-57.5 ___ Monos-7.3 Eos-0.4 
Baso-0.7
___ 08:30PM BLOOD ___ PTT-31.3 ___
___ 08:30PM BLOOD Glucose-76 UreaN-33* Creat-3.3*# Na-139 
K-3.9 Cl-103 HCO3-20* AnGap-20
___ 08:30PM BLOOD ALT-128* AST-192* AlkPhos-121* 
TotBili-0.6
___ 08:30PM BLOOD Albumin-3.9 Calcium-8.2* Phos-2.7 Mg-1.6
___ 08:30PM BLOOD Cortsol-4.0
___ 08:38PM BLOOD Lactate-2.4*

RADIOLOGY:
___ CXR
No acute cardiopulmonary process.

___ CT A/P
No acute intraabdominal process.

___ CT Head
No acute intracranial process.

ECHOCARDIOGRAPHY
___
Poor image quality. The left atrium is elongated. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and global systolic function (LVEF>55%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve is not well seen. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion.  

DISCHARGE LABS:
___ 05:50AM BLOOD WBC-10.2 RBC-3.57* Hgb-11.3* Hct-34.9* 
MCV-98 MCH-31.6 MCHC-32.4 RDW-13.2 Plt Ct-96*
___ 05:50AM BLOOD Glucose-102* UreaN-22* Creat-0.8 Na-142 
K-3.9 Cl-109* HCO3-23 AnGap-14
___ 05:50AM BLOOD ALT-66* AST-61* LD(LDH)-314* AlkPhos-72 
TotBili-0.4
___ 05:50AM BLOOD Albumin-3.1* Calcium-7.8* Phos-3.2 Mg-2.4
___ 08:30PM BLOOD TSH-0.76
___ 08:30PM BLOOD T4-5.7
___ 08:30PM BLOOD Cortsol-4.0
___ 03:02AM BLOOD Lactate-1.7
___ 8:10 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

___ 2:54 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      Refer to respiratory viral antigen screen and respiratory 
virus
      identification test results for further information. 

   Respiratory Viral Antigen Screen (Final ___: 
      Positive for Respiratory viral antigens. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to Respiratory Virus Identification for further 
information. 

   Respiratory Virus Identification (Final ___: 
      Reported to and read back by ___ ___ 
11:27AM. 
      POSITIVE FOR INFLUENZA A VIRAL ANTIGEN. 
         Viral antigen identified by immunofluorescence. 

___ 5:07 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 12:42 am CSF;SPINAL FLUID      # 3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
panhypopituitarism who presents with vasodilatory shock in the 
setting of likely adrenal crisis precipitated by influenza.
  

# Shock: Patient presenting with shock likely secondary to 
adrenal crisis in setting of influenza A infection. Patient was 
fluid resuscitated, given stress dose steroids, and covered 
initially with broad-spectrum antibiotics, oseltamivir, and 
acyclovir. She initially required pressors for BP support. 
Pressors were discontinued on HD#1. A LP was performed which was 
unremarkable, thus acyclovir was discontinued. CT head, abdomen, 
and CXR were unremarkable. Patient was found to be (+) for 
influenza A on respiratory viral swab and influenza likely 
precipitated her adrenal crisis.  She will continue a 7 day 
course of oseltamivir 75 mg BID (first day ___. Endocrinology 
was consulted who provided recommendations about her treatment 
course. Endocrinology recommended a steroid taper as follows: 
hydrocortisone 50 mg IV Q8H x24 hrs, 25 mg IV Q8H x24 hrs, 
prednisone 10 mg x3 days followed by 5 mg x3 days then back to 
home dose of prednisone 3 mg daily.  Patient was called out to 
the medical floor on ___ and her blood pressures remained 
stable in the 110s-120s. Antibiotics (vanco/cefepime) were 
discontinued on ___ given cultures were negative to date and 
patient had no evidence of focal infection besides influenza.  
down to 25 mg iv q8 x24 hs today, then hydrocortisone 40mg am, 
20 mg pm, then resume home dose).  

# Adrenal Crisis: In context of patient's panhypopituitarism, 
her hypotension likely represents an adrenal crisis precipitated 
by influenza infection. She was followed by endocrine who 
recommended stress dose steroid taper as above. Patient was 
advised to obtain Medical Bracelet for AI. Patient was 
prescribed Solucortef 100 mg injection IM prescription at the 
time of discharge for medical emergency.  
Patient and family educated by endocrine team re: importance of 
having access to prednisone when ill and not missing doses 
(doubling instead) when ill.
  
# Panhypopituitarism:  Patient was continued on home 
levothyroxine and received stress dose steroids as above. She 
received a Solucortef 100 mg injection IM prescription at the 
time of discharge for medical emergency.  

# ___: Patient presenting with elevated creatinine likley 
secondary to vasodilatory shock. Her creatinine downtrended to 
normal with IVF.

# Transaminitis: Patient presenting with a transaminitis most 
consistent with hypotension. Enzymes trended down without 
intervention.

TRANSITIONAL ISSUES
-Please continue to monitor BP
-Please ensure patient completes steroid taper as above
-Please ensure patient has endocrine follow-up
-Please ensure patient has Solucortef injection
-Please follow-up final blood cultures from ___
-Please follow-up final CSF culture from ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 3 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir [Tamiflu] 75 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*8 Capsule Refills:*0
3. PredniSONE 10 mg PO DAILY Duration: 3 Days 
Please start on ___. 
RX *prednisone 5 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
4. PredniSONE 5 mg PO DAILY Duration: 3 Days 
Please start on ___ 
Tapered dose - DOWN 
RX *prednisone 5 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0
5. PredniSONE 3 mg PO DAILY 
Please start on ___ and continue thereafter 
Tapered dose - DOWN 
RX *prednisone 1 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
6. Hydrocortisone Na Succ. 100 mg IV ONCE Duration: 1 Dose 
RX *hydrocortisone sod succinate [Solu-Cortef] 100 mg 100 mg SC 
once Disp #*1 Vial Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: adrenal crisis, influenza

SECONDARY DIAGNOSES: panhypopituitarism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___ was a pleasure taking care of you at ___. You were admitted 
with fever and low blood pressure. You were found to have the 
flu which likely caused an adrenal crisis (and resulting low 
blood pressure) requiring medications to keep your blood 
pressure normal and steroids.  Please continue to take your 
steroid as prescribed.   

Please keep your follow-up appointments as below. Please 
schedule a follow-up appointment with your primary care 
physician and with your endocrinologist within the next ___ 
weeks.  Please return to the emergency room if you experience 
fevers, chills, shortness of breath, confusion, muscle aches, 
lightheadedness or any other new or concerning symptoms.
We wish you the best,
Your ___ team
 
Followup Instructions:
___